US09371282B2
2-chloro-5-fluoro-3-methylpyridine (1 g, 6.870 mmol) is dissolved in hydrochloric acid (37%, 20 mL) and the reaction is heated under microwave irradiation at 150° C. for 15 h. The mixture is diluted with water and washed with DCM. The aqueous layer is basified with NaOH and re-extracted with DCM several times. The organic layer is separated, dried and evaporated to furnish 5-fluoro-3-methyl-pyridin-2-ol (140 mg, content 74%, 12%).

reactant | 2-chloro-5-fluoro-3-methylpyridine | 6.870 mmol, 1 g | ClC1=NC=C(C=C1C)F | C6H5ClFN
reactant | water | O | H2O
solvent | hydrochloric acid | 20 mL | Cl | ClH
product | 5-fluoro-3-methyl-pyridin-2-ol | 140 mg | FC=1C=C(C(=NC1)O)C | C6H6FNO
